US06498165B1
2-[1-Naphthylmethylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with 1-naphthalenemethylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (ESI): m/e 352.0 (M+1). 1H NMR (500 MHz, CDCl3): δ partial 8.60 (s, 1H); 8.44 (br s, 1H); 8.12 (m, 1H); 7.94 (m, 1H); 7.85 (m, 2H); 7.59 (m, 2H); 7.48 (m, 1H); 7.32 (br s, 1H); 6.86 (br s, 1H); 5.20 (d, J=5.5 Hz, 2H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | 1-naphthalenemethylamine | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
product | 2-[1-Naphthylmethylamino]-4-[benzimidazol-1-yl]pyrimidine | C1(=CC=CC2=CC=CC=C12)CNC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C22H17N5
